US07601744B2
To a solution of 1-fluoro-2-nitrobenzene (14.11 g, 100 mmol) in ethanol (50 mL) was added isopropylamine (30 mL, 350 mmol, 3.5 equiv.) and the mixture was heated at 55° C. with stirring in a sealed reaction vessel for 3 hours. All volatiles were removed under reduced pressure. The residue was dissolved in diethyl ether (300 mL) and the solution was washed with a saturated aqueous sodium bicarbonate solution, brine, dried (anhydrous sodium sulfate), and concentrated to give N-isopropyl-2-nitroaniline as a bright orange liquid. This was in ethanol (50 mL) and Raney nickel (2.8 g) was added. The mixture was stirred under a hydrogen atmosphere (30 psi) until all starting material was consumed (as evidenced by the disappearance of the bright orange color, ˜3 h). The reaction mixture was filtered through a pad of celite and concentrated to give 14.92 g (98%) N-isopropyl-1,2-phenylenediamine as a viscous black liquid.

reactant | 1-fluoro-2-nitrobenzene | 100 mmol, 14.11 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | isopropylamine | 350 mmol, 30 mL, 3.5 equiv. | C(C)(C)N | C3H9N
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | N-isopropyl-2-nitroaniline | C(C)(C)NC1=C(C=CC=C1)[N+](=O)[O-] | C9H12N2O2
